US05324833
H-Gln(Trt)-OH
A suspension of 10.4 g of Z-Gln(Trt)-OH (20 mmol) in 180 ml of a 9:1 mixture of methanol and water and 20 ml of one-normal aqueous hydrochloric acid is hydrogenated at room temperature and under atmospheric pressure in the presence of 0.5 g of a 10% palladium on charcoal catalyst; after the uptake of hydrogen is complete the starting material has dissolved. The catalyst is filtered off and washed with methanol; the filtrate is concentrated to 200 g and, at 60°, 2.8 ml of triethylamine (20 mmol) are added, whereupon the product immediately starts to crystallize. The mixture is concentrated to 100 g and left to stand at about 4° for some time, and the crystals are filtered off and washed with a mixture of methanol and water until free of chloride. The H-Gln(Trt)-OH obtainable in this way contains 0.5 mole of water and melts at 233° (with decomposition).

reactant | Z-Gln(Trt)-OH | 20 mmol, 10.4 g | N([C@@H](CCC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C32H30N2O5
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | 20 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium on charcoal | [Pd] | Pd
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | water | 0.5 mole | O | H2O
product | H-Gln(Trt)-OH | N[C@@H](CCC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O | C24H24N2O3
